US08686184B2
2-{3-[(1R,2R)-2-Ethoxycarbonyl-2-hydroxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-propyl}-benzoic Acid (R1═—OCH2CH3)
2-(3-Carboxy-propyl)benzoic acid (50 mg, 240 μmol, 1.0 eq.) was combined with DIPEA (134 μL, 3.2 eq.) and HATU (91.3 mg, 240 μmol, 1.0 eq.) in DCM (5 mL). (2R,3R)-3-Amino-2-hydroxy-4-(2-trifluoromethyl-phenyl)-butyric acid ethyl ester (69.9 mg, 240 μmol, 1.0 eq.) was added and the resulting mixture was stirred for 1 hour. The reaction was quenched by adding saturated NH4Cl and the product was extracted with DCM, dried, evaporated, and purified by preparative HPLC to yield the title compound (40 mg, 100% purity). MS m/z [M+H]+ calc'd for C24H26F3NO6, 482.17. found 482.

reactant | 2-(3-Carboxy-propyl)benzoic acid | 240 μmol, 50 mg, 1.0 eq. | C(=O)(O)CCCC1=C(C(=O)O)C=CC=C1 | C11H12O4
reactant | DIPEA | 134 μL, 3.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 240 μmol, 91.3 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-Amino-2-hydroxy-4-(2-trifluoromethyl-phenyl)-butyric acid ethyl ester | 240 μmol, 69.9 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=C(C=CC=C1)C(F)(F)F)N)O)=O | C13H16F3NO3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[(1R,2R)-2-Ethoxycarbonyl-2-hydroxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-propyl}-benzoic Acid | 40 mg, 100% | C(C)OC(=O)[C@@H]([C@@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)CCCC1=C(C(=O)O)C=CC=C1)O | C24H26F3NO6
